US06458780B1
Diphosphorus pentasulfide (846 mg) was added to 8.4 ml of formamide. The mixture was stirred at room temperature overnight. 7-Chloroacetylimidazo[5,1-b]thiazole (2.32 g) was added to the reaction solution. The mixture was stirred at room temperature for 15 hr. Water (20 ml) and 10 ml of dichloromethane were added thereto. The mixture was adjusted to pH 8.8 by gradually adding a sodium hydrogencarbonate powder. Extraction was carried out six times with 50 ml of dichloromethane. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give 1.72 g of 7-(thiazol-4-yl)imidazo[5,1-b]thiazole.

reactant | Diphosphorus pentasulfide | 846 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | formamide | 8.4 ml | C(=O)N | CH3NO
reactant | 7-Chloroacetylimidazo[5,1-b]thiazole | 2.32 g | ClCC(=O)C=1N=CN2C1SC=C2 | C7H5ClN2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | 20 ml | O | H2O
product | 7-(thiazol-4-yl)imidazo[5,1-b]thiazole | 1.72 g | S1C=NC(=C1)C=1N=CN2C1SC=C2 | C8H5N3S2
